US04173478
Dye B: 2-Hydroxy-5-(4-methoxyphenylazo)benzamide
5-(4-Methoxyphenylazo)salicoyl chloride (1 g) was carefully warmed with 0.880 ammonium hydroxide (10 ml) for 10 minutes. The mixture was then acidified with glacial acetic acid and the amide removed by filtration. The product was crystallized from ethanol (0.60 g), 65%, m.p. 231°-3°, λmax (methanol)=352 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | 1 g | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Hydroxy-5-(4-methoxyphenylazo)benzamide | OC1=C(C(=O)N)C=C(C=C1)N=NC1=CC=C(C=C1)OC | C14H13N3O3
